US07618985B2
Glacial acetic acid (2 ml) and 6M hydrochloric acid (4.25 ml) were added to the 3-(1-benzoylaminoisoquinolin-6ylsulfanyl)piperidine-1-carboxylic acid tert-butyl ester (18 mg, 0.039 mmol) and the mixture was refluxed for 24 h. The mixture was then concentrated in vacuo to give a residue. The residue was loaded onto a pre-acidified SCX column using methanol and then eluted with 2M ammonia in methanol to give 6-(piperidin-3-ylsulfanyl)isoquinolin-1--ylamine which was further purified using prep-HPLC, EIMS: m/z=260.3 [M+H]+

reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 6M, 4.25 ml | Cl | ClH
reactant | 3-(1-benzoylaminoisoquinolin-6ylsulfanyl)piperidine-1-carboxylic acid tert-butyl ester | 0.039 mmol, 18 mg | C(C)(C)(C)OC(=O)N1CC(CCC1)SC=1C=C2C=CN=C(C2=CC1)NC(C1=CC=CC=C1)=O | C26H29N3O3S
solvent | methanol | CO | CH4O
product | 6-(piperidin-3-ylsulfanyl)isoquinolin-1--ylamine | N1CC(CCC1)SC=1C=C2C=CN=C(C2=CC1)N | C14H17N3S
